US05891889
Step A: trans-N-t-Butoxycarbonyl-4-(3-methylphenyl)-3-methoxy pipendine
To a solution of trans-N-t-butoxycarbonyl-4-(3-methylphenyl)-3 hydroxy piperidine (117 mg, 0.402 mmol), in DMF (2 ml) at 0° C. was added sodium hydride (24 mg of a 60% dispersion in mineral oil, 0.803 mmol). After 10 min, methyl iodide (0.050 ml, 0.803 mmol) was added and the reaction allowed to warm to room temperature over 16 hrs. The reaction was quenched by the addition of saturated NH4Cl solution (5 ml) and extraction with EtOAc. The organic extracts were washed with brine and dried, (MgSO4) and the solvent evaporated in vacuo. Chromatography of the residue (SiO2, 10-15% EtOAc in hexanes) afforded the title compound as an oil.

reactant | trans-N-t-butoxycarbonyl-4-(3-methylphenyl)-3 hydroxy piperidine | 0.402 mmol, 117 mg | C(C)(C)(C)OC(=O)N1C[C@H]([C@@H](CC1)C1=CC(=CC=C1)C)O | C17H25NO3
reactant | sodium hydride | [H-].[Na+]
reactant | methyl iodide | 0.803 mmol, 0.050 ml | CI | CH3I
solvent | DMF | 2 ml | CN(C)C=O | C3H7NO
product | trans-N-t-Butoxycarbonyl-4-(3-methylphenyl)-3-methoxy pipendine | C(C)(C)(C)OC(=O)N1C[C@H]([C@@H](CC1)C1=CC(=CC=C1)C)OC | C18H27NO3
